US05880188
Preparation of 3-cyano-1,3-dihydro-1-hydroxy-2,1-benzoxaborole
2-formyl phenyl boronic acid (1.0 parts, 0.007M) was added to an aqueous solution of sodium cyanide (0.35 parts) in water (20 ml) at 20° C. with stirring. After 15 mins the reactants were cooled to 5° C. and carefully neutralised to pH 5 with concentrated hydrochloric acid. The resultant white precipitate was filtered and recrystallised from water (25,ml). The product was dried over calcium chloride. Yield=0.29 parts (26% theory) mp=114°-5° C.

reactant | 2-formyl phenyl boronic acid | 0.007M | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 3-cyano-1,3-dihydro-1-hydroxy-2,1-benzoxaborole | C(#N)C1OB(C2=C1C=CC=C2)O | C8H6BNO2
